US07425568B2
5-Nitro-2-(4-oxo-2-phenyl-3,4-dihydrobenzo[1.4]oxathiin-6-yloxy)pyridine
To 5-nitro-2-(2-phenyl-2,3-dihydrobenzo[1,4]oxathiin-6-yloxy)pyridine (214 mg) in methanol (80 ml) at 60° C., NaIO4 (total 2.5 eq) was added in small portions until disappearance of the starting material. The mixture was poured into water and precipitate was filtered and washed with water. The crude product was purified by column chromatography using heptane-ethyl acetate (1:1) as an eluant. 1H NMR (400 MHz, CDCl3) δ: 9.02 (d, 1H, J 2.8 Hz), 8.51 (dd, 1H, J 9.1, 2.8 Hz), 7.45-7.56 (m, 6H), 7.32 (dd, 1H, J 9.0, 2.8 Hz), 7.21 (d, 1H, J 9.0 Hz), 7.10 (d, 1H, J 9.1 Hz), 5.77 (dd, 1H, J 12.0, 1.5 Hz), 3.34 (dd, 1H, 14.4, 1.5 Hz), 3.13 (dd, 1H, 14.4, 12.0 Hz).

reactant | 5-nitro-2-(2-phenyl-2,3-dihydrobenzo[1,4]oxathiin-6-yloxy)pyridine | 214 mg | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=CC2=C(SCC(O2)C2=CC=CC=C2)C1 | C19H14N2O4S
reactant | water | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | 5-Nitro-2-(4-oxo-2-phenyl-3,4-dihydrobenzo[1.4]oxathiin-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=CC2=C(S(CC(O2)C2=CC=CC=C2)=O)C1 | C19H14N2O5S
